US04591584
(c) Methyl 4-amino-2-methanesulfonyloxybenzoate hydrochloride
Methyl 2-methanesulfonyloxy-4-nitrobenzoate (14 g) and palladium on carbon (0.5 g, 10%) were suspended in 400 ml of acetic acid and hydrochloric acid (5 ml, density 1.18). The suspension was hydrogenated in a Parr hydrogenation apparatus at 250 kPa. The palladium carbon was filtered off, and the solution was evaporated; the crystal mass was washed with ethyl acetate and dried. Yield: 11 g.

reactant | Methyl 2-methanesulfonyloxy-4-nitrobenzoate | 14 g | CS(=O)(=O)OC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H9NO7S
reactant | hydrochloric acid | 5 ml | Cl | ClH
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | Methyl 4-amino-2-methanesulfonyloxybenzoate hydrochloride | Cl.NC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C | InChI=1S/C9H11NO5S.ClH/c1-14-9(11)7-4-3-6(10)5-8(7)15-16(2,12)13;/h3-5H,10H2,1-2H3;1H
